US09388166B2
A solution of (2-methoxy-5-nitro-phenyl)-carbamic acid tert-butyl ester (1.80 g, 6.71 mmol) in THF (50 mL) was added ((trimethylsilyl)methyl)magnesium chloride (2.47 g, 16.8 mmol) at −70° C. under nitrogen gas. The solution was then stirred at −70° C. for one hour. A solution of 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (3.05 g, 13.4 mmol) in THF (30 mL) was added, the reaction was warmed to 0° C. The reaction was allowed to stir at 0° C. for another hour. The reaction mixture is poured into an aqueous solution of acetic acid (50 mL, 5%). The aqueous phase was extracted three times with ethyl acetate and the combined organic layers were washed with brine and dried over magnesium sulfate. Filtration followed by concentration in vacuo gave brown oil. Flash chromatography (80/20 hexanes/ethyl acetate) afforded (2-methoxy-5-nitro-4-trimethylsilanylmethyl-phenyl)-carbamic acid tert-butyl ester (1.50 g, 63%) as a light oil.

reactant | (2-methoxy-5-nitro-phenyl)-carbamic acid tert-butyl ester | 6.71 mmol, 1.80 g | C(C)(C)(C)OC(NC1=C(C=CC(=C1)[N+](=O)[O-])OC)=O | C12H16N2O5
reactant | ((trimethylsilyl)methyl)magnesium chloride | 16.8 mmol, 2.47 g | C[Si](C)(C)C[Mg]Cl
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 13.4 mmol, 3.05 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (2-methoxy-5-nitro-4-trimethylsilanylmethyl-phenyl)-carbamic acid tert-butyl ester | 1.50 g, 63% | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)[N+](=O)[O-])C[Si](C)(C)C)OC)=O | C16H26N2O5Si
